US07528147B2
A solution of methyl {5-methoxy-1-methyl-3-[1-(toluene-4-sulfonyl)-1H-pyrrolo[2,3-b]pyridin-2-yl]-1H-indol-6-yloxy}acetate, (0.91 g; 1.751 mmol) in methanolic potassium hydroxide (74 ml at 1 g/ml) is placed in a 100 ml round-bottomed flask, at 20° C. for 16 hours with agitation. After reaction, the precipitate formed is filtered off, and rinsed with methanol (20 ml). A suspension of the above solid in water (30 ml) is placed in a 250 ml Erlenmeyer flask and the pH is then adjusted to 4 with 2N aqueous hydrochloric acid. The yellow solid formed is triturated in the reaction mixture and is then filtered, rinsed with water and dried under reduced pressure. {5-Methoxy-1-methyl-3-[1-(toluene-4-sulfonyl)-1H-pyrrolo[2,3-b]pyridin-2-yl]-1H-indol-6-yloxy}acetic acid (0.666 g; 98%) is isolated, the characteristics of which are as follows:

reactant | methyl {5-methoxy-1-methyl-3-[1-(toluene-4-sulfonyl)-1H-pyrrolo[2,3-b]pyridin-2-yl]-1H-indol-6-yloxy}acetate | COC=1C=C2C(=CN(C2=CC1OCC(=O)OC)C)C1=CC=2C(=NC=CC2)N1S(=O)(=O)C1=CC=C(C=C1)C | C27H25N3O6S
solvent | potassium hydroxide | 74 ml | [OH-].[K+]
product | {5-Methoxy-1-methyl-3-[1-(toluene-4-sulfonyl)-1H-pyrrolo[2,3-b]pyridin-2-yl]-1H-indol-6-yloxy}acetic acid | 0.666 g, 98% | COC=1C=C2C(=CN(C2=CC1OCC(=O)O)C)C1=CC=2C(=NC=CC2)N1S(=O)(=O)C1=CC=C(C=C1)C | C26H23N3O6S
